***************************************************************************
* Renesas RJK0853DPB
*
* Polarity N-Channel
* Ratings 80V/8.000000E-003OHMS/40A
*
* Date Created Wed Dec 21 18:56:42 2011
* Revision 18  Wed Apr 10 14:20:14 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0853DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 2143301112.37328 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.005634 TC=0.00650175281858966,2.01413680660778E-05
RBD 9 4 0.00147417406569619 TC=0.00650175281858966,2.01413680660778E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 3005439846.12148
CGS 2 6 6.06892e-09
RG 1 2 0.47956

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	2014.4
+ -25	2014.4
+ -24	2014.4
+ -23	2014.4
+ -22	2014.4
+ -21	2014.4
+ -20	2014.4
+ -19	2014.4
+ -18	2014.4
+ -17	2014.4
+ -16	2014.4
+ -15	2014.4
+ -14	2014.4
+ -13	2014.4
+ -12	2014.4
+ -11	2014.4
+ -10	2014.4
+ -9	2014.4
+ -8	2014.4
+ -7	2014.4
+ -6	2014.4
+ -5	2014.4
+ -4	1863.32
+ -3	1712.24
+ -2	1561.16
+ -1	1410.08
+ 0	1259
+ 0.1	1094
+ 0.2	970.9
+ 0.3	867.8
+ 0.4	775.5
+ 0.5	697.5
+ 0.6	637.9
+ 0.7	594.8
+ 0.8	563
+ 0.9	538.3
+ 1	518
+ 2	405.5
+ 3	350.8
+ 4	315.5
+ 5	290.1
+ 6	270.5
+ 7	254.7
+ 8	241.7
+ 9	230.7
+ 10	221.7
+ 11	213.4
+ 12	206
+ 13	199.5
+ 14	193.6
+ 15	188.3
+ 16	183.4
+ 17	179
+ 18	174.9
+ 19	171
+ 20	167.5
+ 21	164.2
+ 22	161.1
+ 23	158.2
+ 24	155.4
+ 25	152.9
+ 30	141.9
+ 35	133.2
+ 40	126.1
+ 45	120.3
+ 50	115.8
+ 55	112.8
+ 60	111.1
+ 65	110
+ 70	109.4
+ 75	109.1
+ 80	108.9



.MODEL MINT NMOS(Vto=2.30724 Kp=5.399e+002 Nfs=370000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=300)

.MODEL DBD D(Bv=87.8646 Ibv=1.000000E-002 Rs=1E-6 Is=7.10194416420238e-12
+ N=1 M=0.53 VJ=0.5 Fc=0.5 Cjo=1.822e-09 Tt=4.04e-09)

.ENDS

