***************************************************************************
* Renesas RJK1052DPB
*
* Polarity N-Channel
* Ratings 100V/2.000000E-002OHMS/20A
*
* Date Created Wed Dec 21 16:32:03 2011
* Revision 18  Wed Apr 10 14:20:14 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK1052DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 7448234768.3599 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0143 TC=0.00692134623877072,1.36443829894077E-05
RBD 9 4 0.00210766817804264 TC=0.00692134623877072,1.36443829894077E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5890322200.62437
CGS 2 6 4.032978e-09
RG 1 2 0.359152

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	1718.86
+ -25	1718.86
+ -24	1718.86
+ -23	1718.86
+ -22	1718.86
+ -21	1718.86
+ -20	1718.86
+ -19	1718.86
+ -18	1718.86
+ -17	1718.86
+ -16	1718.86
+ -15	1718.86
+ -14	1718.86
+ -13	1718.86
+ -12	1718.86
+ -11	1718.86
+ -10	1718.86
+ -9	1718.86
+ -8	1718.86
+ -7	1718.86
+ -6	1718.86
+ -5	1718.86
+ -4	1507.308
+ -3	1295.756
+ -2	1084.204
+ -1	872.652
+ 0	661.1
+ 0.1	568.2
+ 0.2	487.9
+ 0.3	415.1
+ 0.4	358.6
+ 0.5	321.7
+ 0.6	298.3
+ 0.7	282.4
+ 0.8	270.3
+ 0.9	260.4
+ 1	251.9
+ 2	201.5
+ 3	175.2
+ 4	157.9
+ 5	145.3
+ 6	135.6
+ 7	127.7
+ 8	121.2
+ 9	115.7
+ 10	111.2
+ 11	107
+ 12	103.4
+ 13	100.1
+ 14	97.17
+ 15	94.5
+ 16	92.06
+ 17	89.83
+ 18	87.78
+ 19	85.87
+ 20	84.11
+ 21	82.46
+ 22	80.91
+ 23	79.46
+ 24	78.09
+ 25	76.81
+ 30	71.29
+ 35	66.92
+ 40	63.35
+ 45	60.35
+ 50	57.79
+ 55	55.56
+ 60	53.62
+ 65	52
+ 70	50.81
+ 75	50.06
+ 80	49.64
+ 85	49.39
+ 90	49.26
+ 95	49.19
+ 100	49.17



.MODEL MINT NMOS(Vto=2.243 Kp=3.3704e+002 Nfs=450000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=3000)

.MODEL DBD D(Bv=109.222 Ibv=1.000000E-002 Rs=1E-6 Is=4.00300969942162e-12
+ N=1 M=0.54 VJ=0.5 Fc=0.5 Cjo=1.1849e-09 Tt=4.2e-09)

.ENDS

